US09029295B2
To a solution of potassium t-butoxide (12.4 g, 110 mmol) in dry THF (80 ml) was added a solution of ethyl 2-[2-(2,6-diethyl-4-methylphenyl)acetyl-2-benzylhydrazono]-2-(dodecylthio)acetate (16.4 g, 27.6 mmol) in dry THF (20 ml) dropwise at room temperature over 20 minutes. After being stirred for 10 minutes at room temperature, 1N hydrochloric acid (200 ml) was added, and extracted with tert-butyl methyl ether 2 times. The combined organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=2:1) to give 1.48 g of Compound (I-12-1) (yield: 13%) as solid and 2.71 g of 4-(2,6-diethyl-4-methylphenyl)-6-dodecylthio-5-hydroxy-2-benzyl-3(2H)-pyridazinone and Compound (I-12-1-B) (yield: 17%) as oil.

reactant | potassium t-butoxide | 110 mmol, 12.4 g | CC(C)([O-])C.[K+]
reactant | ethyl 2-[2-(2,6-diethyl-4-methylphenyl)acetyl-2-benzylhydrazono]-2-(dodecylthio)acetate | 27.6 mmol, 16.4 g | C(C)C1=C(C(=CC(=C1)C)CC)CC(=O)N(N=C(C(=O)OCC)SCCCCCCCCCCCC)CC1=CC=CC=C1 | C36H54N2O3S
reactant | hydrochloric acid | 1N, 200 ml | Cl | ClH
solvent | THF | 80 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 4-(2,6-diethyl-4-methylphenyl)-6-dodecylthio-5-hydroxy-2-benzyl-3(2H)-pyridazinone | 2.71 g, yield: 17% | C(C)C1=C(C(=CC(=C1)C)CC)C=1C(N(N=C(C1O)SCCCCCCCCCCCC)CC1=CC=CC=C1)=O | C34H48N2O2S
